US05780482
A mixture of 5-chloro-3-ethoxy-2-methyl-1,8 naphthyridine (0.98 g), 6-amino-2-ethoxypyridine (0.6 g), IMS (25 ml) and concentrated hydrochloric acid (2 drops) was boiled under reflux for 18 hours. The mixture was cooled and filtered to give 3-ethoxy-5-(6-ethoxy-2-pyridylamino)-2-methyl-1,8-naphthyridine hydrochloride, m.p. >250° C. Active (1/1) at 30 mg/kg.

reactant | 5-chloro-3-ethoxy-2-methyl-1,8 naphthyridine | 0.98 g | ClC1=C2C=C(C(=NC2=NC=C1)C)OCC | C11H11ClN2O
reactant | 6-amino-2-ethoxypyridine | 0.6 g | NC1=CC=CC(=N1)OCC | C7H10N2O
catalyst | hydrochloric acid | 2 drops | Cl | ClH
product | 3-ethoxy-5-(6-ethoxy-2-pyridylamino)-2-methyl-1,8-naphthyridine hydrochloride | Cl.C(C)OC=1C(=NC2=NC=CC(=C2C1)NC1=NC(=CC=C1)OCC)C | InChI=1S/C18H20N4O2.ClH/c1-4-23-15-11-13-14(9-10-19-18(13)20-12(15)3)21-16-7-6-8-17(22-16)24-5-2;/h6-11H,4-5H2,1-3H3,(H,19,20,21,22);1H
